US07160915B2
Step C: Preparation of 3,4-difluoro-2-(2-fluoro-4-iodo-phenylamino)-5-nitro-benzoic acid methyl ester
To a solution of 3,4-difluoro-2-(2-fluoro-4-iodo-phenylamino)-5-nitro-benzoic acid (595.3 g, 1.363 mol) in acetone (9 L) was added sodium bicarbonate (609.0 g, 3.48 mol) and the mixture was stirred for 10 min. To this suspension was added dimethylsulfate (285.6 ml, 3.026 mol) and refluxed for 3 h (completion of reaction was confirmed by TLC-hexane: EtOAc/4:1), cooled to room temperature and evaporated under vacuum. The residue (yellow) was further digested in hot methanol (2 L), filtered, washed with methanol and dried to give the title compound as a solid (yellow). Yield: 405.63g (65.54%).

reactant | 3,4-difluoro-2-(2-fluoro-4-iodo-phenylamino)-5-nitro-benzoic acid | 1.363 mol, 595.3 g | FC=1C(=C(C(=O)O)C=C(C1F)[N+](=O)[O-])NC1=C(C=C(C=C1)I)F | C13H6F3IN2O4
reactant | sodium bicarbonate | 3.48 mol, 609.0 g | C([O-])(O)=O.[Na+]
reactant | dimethylsulfate | 3.026 mol, 285.6 ml | COS(=O)(=O)OC | C2H6O4S
reactant | hexane | CCCCCC | C6H14
solvent | acetone | 9 L | CC(=O)C | C3H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3,4-difluoro-2-(2-fluoro-4-iodo-phenylamino)-5-nitro-benzoic acid methyl ester | COC(C1=C(C(=C(C(=C1)[N+](=O)[O-])F)F)NC1=C(C=C(C=C1)I)F)=O | C14H8F3IN2O4
